US07345178B2
3-Amino-4-hydroxypyridine (2.225 g, 20.0 mmol) and 2-aminobenzoic acid (2.740 g, 20.0 mmol) were stirred in polyphosphoric acid (40 mL) at 140° C. for 6 hrs. The reaction mixture was poured into distilled water and sodium hydroxide was added until pH=8. The precipitate was collected by filtration and the crude product was purified by chromatography on silica gel eluting with petroleum ether:ethyl acetate:Et3N (160:40:1) to give 2-(oxazolo[4,5-c]pyridin-2-yl)benzenamine (1.659 g, Yield: 39%). 1H NMR (400MHz, DMSO-d6) δ: 6.68 (1H, t, J=7.6 Hz), 6.93 (1H, d, J=8.0 Hz), 7.17 (2H, s), 7.30 (1H, t, J=7.6 Hz), 7.83 (1H, d, J=5.6 Hz), 7.90 (1H, d, J=8.0 Hz), 8.55 (1H, d, J=5.6 Hz), 9.05 (1H, s); MS(ESI) calcd. for C12H9N3O (m/z): 211, found: 212 [M+1]+.

reactant | 3-Amino-4-hydroxypyridine | 20.0 mmol, 2.225 g | NC=1C=NC=CC1O | C5H6N2O
reactant | 2-aminobenzoic acid | 20.0 mmol, 2.740 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
product | 2-(oxazolo[4,5-c]pyridin-2-yl)benzenamine | 1.659 g, Yield: 39% | O1C(=NC=2C=NC=CC21)C2=C(C=CC=C2)N | C12H9N3O
